US07834013B2
Enantiomerically Enriched (trans)-N-cyclobutyl-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxamide (IV-8)
HATU (0.154 g, 0.41 mmol) and (+)-(trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic acid (III-3c) (0.135 g, 0.31 mmol) in DMF (10 mL) were stirred at RT for 15 min, then cyclobutylamine (0.50 g) was added. The solution was stirred at RT for 1 h, then saturated NaHCO3 solution (20 mL) was added. The resulting solid was filtered, washed with water (10 mL) and dissolved in ethyl acetate (50 mL). The organic layer was dried over MgSO4, filtered and concentrated to give the title compound as a white powder (0.116 g, 77%). 1H NMR (400 MHz, DMSO) δ8.23 (d, J=7.5 Hz, 1H), 8.01 (d, J=8.1 Hz, 2H), 7.76 (d, J=8.0 Hz, 2H), 6.81 (d, J=8.3 Hz, 2H), 6.51 (d, J=8.4 Hz, 2H), 6.20 (t, J=5.8 Hz, 1H), 4.38 (d, J=5.5 Hz, 2H), 4.19-4.13 (m, 1H), 2.42 (s, 3H), 2.10-2.06 (m, 2H), 2.04-1.99 (m, 1H), 1.85-1.75 (m, 2H), 1.59-1.50 (m, 3H), 1.18-1.13 (m, 1H), 1.01-0.96 (m, 1H).

reactant | HATU | 0.41 mmol, 0.154 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (+)-(trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic acid | 0.31 mmol, 0.135 g | CC=1N=C(SC1CNC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C22H19F3N2O2S
reactant | cyclobutylamine | 0.50 g | C1(CCC1)N | C4H9N
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (trans)-N-cyclobutyl-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxamide | 0.116 g, 77% | C1(CCC1)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)NCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C26H26F3N3OS
